US08614238B2
N-(Biphenyl-4-yl)-2,2,2-trifluoro-acetamide
5.00 g (24.3 mmol) 4-Aminobiphenyl and 4.20 mL (29.9 mmol) TEA is stirred in 50 mL DCM under cooling with an ice bath. 4.20 mL (30.2 mmol) Trifluoroacetic anhydride is added drop wise. The mixture is allowed to warm to RT and stirred for 1 hour. The mixture is washed with water. The organic phase is dried and the solvent is evaporated.

reactant | 4-Aminobiphenyl | 24.3 mmol, 5.00 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | Trifluoroacetic anhydride | 30.2 mmol, 4.20 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(Biphenyl-4-yl)-2,2,2-trifluoro-acetamide | C1(=CC=C(C=C1)NC(C(F)(F)F)=O)C1=CC=CC=C1 | C14H10F3NO
